US06013652
5-Fluoro-spiro(2,3-dihydrobenzofuran-3,4'-piperidine)hydrochloride salt
5-fluoro-1'-methyl-spiro(2,3-dihydrobenzofuran-3,4'-piperidine) (1.21 g, 5.48 mmol) in 1,2-dichloroethane (12 mL) at room temp was treated with 2-chloroethyl chloroformate (1 mL, 9 mmol). A white precipitate formed, and the reaction was refluxed 2 h. MeOH (12 mL) was added and refluxing was continued for 2 h. The reaction was concentrated to a crude solid, which was triturated with EtOAc (5 mL) and filtered to yield 1.27 g (95%) of the title compound as a white crystalline solid.

reactant | 5-fluoro-1'-methyl-spiro(2,3-dihydrobenzofuran-3,4'-piperidine) | 5.48 mmol, 1.21 g | FC=1C=CC2=C(C1)C1(CCN(CC1)C)CO2 | C13H16FNO
reactant | 2-chloroethyl chloroformate | 9 mmol, 1 mL | ClC(=O)OCCCl | C3H4Cl2O2
reactant | MeOH | 12 mL | CO | CH4O
solvent | 1,2-dichloroethane | 12 mL | ClCCCl | C2H4Cl2
product | 5-Fluoro-spiro(2,3-dihydrobenzofuran-3,4'-piperidine)hydrochloride salt | 1.27 g, 95% | Cl.FC=1C=CC2=C(C1)C1(CCNCC1)CO2 | InChI=1S/C12H14FNO.ClH/c13-9-1-2-11-10(7-9)12(8-15-11)3-5-14-6-4-12;/h1-2,7,14H,3-6,8H2;1H
